.options savecurrents

*voltage source
Vs 1 0 DC 0.0
Vc 6 8 DC 8.76872906071375 
Vsource 0 9 DC 0.0


*Resistances
R1 1 2 1.04408633697k
R2 2 3 2.04051610808k
R3 2 5 3.07566747417k
R4 0 5 4.05936218175k
R5 5 6 3.05878343538k
R6 9 7 2.0603640429k
R7 7 8 1.04299566201k 

*capacitor
*C 6 8 1.02590436129u

* Linear Voltage-Controlled Current Source
Gib 6 3 2 5 7.2865951329m

* Linear Current-Controlled Voltage Source
Hvc 5 8 Vsource 8.22752594192k


.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end