
.options savecurrents

*voltage source
Vs 1 0 DC 0.0
.include data2spice_Vx.txt
Vsource 0 9 DC 0.0

.include data2spice_R.txt

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end