
.options savecurrents

*voltage source
Vs 1 0 DC 0.0
.include data2spice_Vx.txt
Vsource 0 9 DC 0.0

.include data2spice_R.txt

.op

.end

.control

op


echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "opb_TAB"
print all
echo  "opb_END"


.endc
